US08034812B2
Production of 3-(imidazo[1,2-b]pyridazin-6-yloxy)-N-[3-(trifluoromethyl)phenyl]benzamide
Using 3-(imidazo[1,2-b]pyridazin-6-yloxy)benzoic acid (128 mg, 0.50 mmol), 3-(trifluoromethyl)aniline (97 mg, 0.60 mmol), 1-hydroxybenzotriazole hydrate (92 mg, 0.60 mmol), N,N-dimethylformamide (5 mL), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (192 mg, 1.00 mmol) and triethylamine (0.209 mL, 1.50 mmol), and in the same manner as in Example 448, the title compound (114 mg, 0.29 mmol, yield 57%) was obtained.

reactant | 3-(imidazo[1,2-b]pyridazin-6-yloxy)benzoic acid | 0.50 mmol, 128 mg | N=1C=CN2N=C(C=CC21)OC=2C=C(C(=O)O)C=CC2 | C13H9N3O3
reactant | 3-(trifluoromethyl)aniline | 0.60 mmol, 97 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 1-hydroxybenzotriazole hydrate | 0.60 mmol, 92 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.00 mmol, 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.50 mmol, 0.209 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(imidazo[1,2-b]pyridazin-6-yloxy)-N-[3-(trifluoromethyl)phenyl]benzamide | 0.29 mmol, 114 mg, yield 57% | N=1C=CN2N=C(C=CC21)OC=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC2 | C20H13F3N4O2
